US07211595B2
Methyl 3′-chloro-5-nitro(1,1′-biphenyl)-2-carboxylate
A mixture of methyl 2-chloro-4-nitrobenzoate (0.432 g, 2.0 mmol), 3-chlorophenylboronic acid (0.375 g, 2.4 mmol), trans-dichlorobis(tricyclohexylphosphine)-palladium (II) (0.074 g, 0.1 mmol), and sodium carbonate (0.64 g, 6.0 mmol) in a mixture of toluene (10 mL), dioxane (10 mL), and ethanol (2 mL) was heated to reflux for 12 hours, cooled to room temperature, diluted with ethyl acetate (10 mL), washed with brine, dried (MgSO4), filtered, and concentrated. The concentrate was purified by flash column chromatography on silica gel with 1:10 ethyl acetate/hexanes to provide 0.58 g (99%) of the desired product. MS (DCI/NH3) m/z 309 (M+NH4)+; 1H NMR (CDCl3) δ 8.27-8.22 (m, 2H), 8.00 (dd, 1H), 7.41-7.34 (m, 3H), 7.23-7.18 (m, 1H), 3.72 (s, 3H).

reactant | methyl 2-chloro-4-nitrobenzoate | 2.0 mmol, 0.432 g | ClC1=C(C(=O)OC)C=CC(=C1)[N+](=O)[O-] | C8H6ClNO4
reactant | 3-chlorophenylboronic acid | 2.4 mmol, 0.375 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 6.0 mmol, 0.64 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | trans-dichlorobis(tricyclohexylphosphine)-palladium (II) | 0.1 mmol, 0.074 g | C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.Cl[Pd]Cl
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | Methyl 3′-chloro-5-nitro(1,1′-biphenyl)-2-carboxylate | 0.58 g, 99% | ClC=1C=C(C=CC1)C=1C(=CC=C(C1)[N+](=O)[O-])C(=O)OC | C14H10ClNO4
